US08349865B2
Step 1: 9-Bromo-1-chloro-N-(2,6-dichloro-4-iodophenyl)benzo[c]-2,6-naphthyridin-5-amine
The title compound was prepared according to the procedure in (Example 3, Method C, Step 4) using 9-bromo-1,5-dichlorobenzo[c]-2,6-naphthyridine and 2,6-dichloro-4-iodoaniline as the starting materials.

reactant | 9-bromo-1,5-dichlorobenzo[c]-2,6-naphthyridine | BrC1=CC2=C(N=C(C3=CC=NC(=C23)Cl)Cl)C=C1 | C12H5BrCl2N2
reactant | 2,6-dichloro-4-iodoaniline | ClC1=C(N)C(=CC(=C1)I)Cl | C6H4Cl2IN
product | 9-Bromo-1-chloro-N-(2,6-dichloro-4-iodophenyl)benzo[c]-2,6-naphthyridin-5-amine | BrC1=CC2=C(N=C(C3=CC=NC(=C23)Cl)NC2=C(C=C(C=C2Cl)I)Cl)C=C1 | C18H8BrCl3IN3
